Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Alcohol intoxication / withdrawal
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ year-old gentleman with a history of hepatitis 
C, alcohol abuse and eye trauma who presents with alcohol 
intoxication following altercation. 

Per patient he was intoxicated in the ___ in ___ until an 
unknown person took his money and punched him in the left side 
of the face. He does not recall how but he was brought to the 
___ ED. 

In the ED, initial vitals:  96.7 72 132/81 18 100% RA  
-Labs were significant for:
*normocytic anemia Hb 9.2, thrombocytopenia to 32
*AST 421/ ___ 113 / ALP 128
-Imaging showed: 
*NCHCT: no acute intracranial process
*CT neck: no fracture or instability
-ED resident called PCP:
"HCV, alcohol abuse, liver mass, left eye trauma, varicose 
veins. Hasn't been seen by PCP ___ ___. u/s abdomen back 
in ___ [...] poor follow up (confirmed by PCP) reasonable to 
expedite work-up"
In the ED, he received
___ 08:47 PO FoLIC Acid 1 mg 
___ 08:47 PO Thiamine 100 mg 
___ 08:47 PO Multivitamins 1 TAB  
___ 08:47 PO/NG Diazepam 10 mg 
___ 14:00 PO/NG Diazepam 10 mg  
___ 14:42 IV Diazepam 10 mg  

Vitals prior to transfer:  93 115/70 18 100% RA  
Currently,  99.6 PO 124 / 79 103 16 99 RA. Patient complains of 
pain in left jaw and left eye. He says he has ophthalmologist at 
___ Eye and Ear, used drops for glaucoma until 2 months ago but 
ran out of them.  When asked about liver mass he says he 
recently had CT at ___ for that, he did not follow-up results.

 
Past Medical History:
-HCV and Ethanol Cirrhosis
-Liver mass 
-Left eye trauma with hemorrhage leading to intra-ocular 
hypertension, eyesight prognosis guarded.
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION:
VS:   99.6 PO 124 / 79 103 16 99 RA 
 GEN: Alert, lying in bed, no acute distress  
 HEENT: Moist MM, anicteric sclerae, conjunctival pallor. Left 
eye with externally distorted anatomy of cornea and pupil. No 
pupillary reflex on left eye.   
 NECK: Supple without LAD  
 PULM: CTA b/l without wheeze or rhonchi  
 COR: RRR (+)S1/S2 multifocal systolic murmur
 ABD: Slightly globulous, discrete collateral circulation. 
Normal bowel sounds. Soft. Non tender. Dull ___ space. Cannot 
palpate liver edge.
 EXTREM: Warm, well-perfused, no edema  
 NEURO: CN II-XII grossly intact, motor function grossly normal. 
fine tremor superimposed on asterixis.  

DISCHARGE:
VS: 98 | 120/72 | 78 | 20 | 98%RA   
 GEN: Sleeping, lying in bed, no acute distress  
 HEENT: Moist MM, anicteric sclerae. Left eye with externally 
distorted anatomy of cornea and pupil. Left eye able to open 
slightly. Right eye fully open today (improvement). No visible 
secretions.
 NECK: Supple without LAD  
 PULM: CTA b/l without wheeze or rhonchi, clear lung bases  
 COR: RRR (+)S1/S2 multifocal systolic murmur
 ABD: Slightly globulous, discrete collateral circulation. 
Normal bowel sounds. Soft. Non tender. Dull ___ space. Cannot 
palpate liver edge.
 EXTREM: Warm, well-perfused, no edema  
 NEURO: CN II-XII grossly intact, motor function grossly normal. 
No tremor. No asterixis.
 
Pertinent Results:
CBC
====
                    WBC  Hgb Hct   MCV ___ MCHC  RDW  RDWSD  Plt 
Ct 
___ 05:06    3.3*8.8* 29.0* 90 27.2 30.3* 22.8* 74.6* 72* 

___ 05:30    4.6 9.3* 29.5* 88 27.8 31.5* 22.3* 68.4* 86* 

___ 05:46    4.4 8.7* 28.3* 87 26.6 30.7* 21.3* 64.0* 71* 

___ 05:24    4.3 8.7* 27.9* 86 26.7 31.2* 21.2* 65.1* 64* 

___ 05:39    5.5 9.3* 29.7* 85 26.5 31.3* 20.9* 63.9* 
52*1 
___ 05:35    5.8 9.1* 29.1* 84 26.4 31.3* 21.1* 64.0* 30* 

___ 05:46    3.3*8.8* 28.0* 82 25.9* 31.4* 21.6* 65.1*20* 

___ 08:35    4.4 9.2* 29.9* 84 25.7* 30.8* 22.5* 
67.7*32*2 
 
Chemistry
==========

                    Glu  BUN Cr  Na    K  Cl HCO3 AnGap 
___ 05:06    ___ 132* 3.6 ___ 
___ 05:30    ___ 132* 3.7 ___ 
___ 05:46    ___ 3.7 99  25 10 
___ 05:24    ___  3.9 ___ 
___ 15:30    ___ 130* 4.2 101 20*13 
___ 05:39    ___ 128* 3.9 99  22 11 
___ 05:35    ___ 128* 4.1 98  23 11 
___ 05:46    ___ 133  3.6 99  26 12 
___ 08:35    ___ 140  3.8 ___ 

INR
====

                   ___ 
___ 05:06    1.4* 
___ 05:30    1.5* 
___ 05:46    1.5* 
___ 05:24    1.5* 
___ 05:39    1.5* 
___ 05:35    1.3* 
___ 05:46    1.3* 
___ 10:58    1.3* 

LFTs
====

                                ___  AST  LDH ALP   TBili  
___ 05:06    66* 161*     128   1.4   
___ 05:30    66* 159*     113   2.1*   
___ 05:46    69* 166* 300*113   1.7*   
___ 05:24    76* 201*     119   1.6*   
___ 05:39    85* 239*     129   2.0*   
___ 05:35    99* 339* 453*131*  2.4*   
___ 05:46    101* 348*468*124   1.7*   
___ 08:35    113* 421*    128   1.2   

HEPATITIS WORK-UP
==================

                          HBsAg HBsAb HBcAb HBcIgM  
___ 05:46                        Neg 
___ 08:35  Neg   Neg      Pos*
   
                                ___ 
___ 08:35    Pos* 

___ 05:46AM HEPATITIS C VIRAL RNA, GENOTYPE-1a, 569,000 
IU/mL.    

OTHER
========
___ 08:35AM AFP-3.9

IMAGING
=========
EXAMINATION:  CHEST (PA AND LAT) 
INDICATION:  ___ year old man with ? atelectasis vs PNA on 
portable film.  //
Evaluate for PNA 
TECHNIQUE:  PA and lateral chest radiograph
COMPARISON:  Chest radiograph ___
FINDINGS: 
There is no focal consolidation, pleural effusion or 
pneumothorax. 
Cardiomediastinal contours are normal.  No acute osseous 
abnormalities.

EXAMINATION: RIGHT ANKLE RADIOGRAPH  
INDICATION:  ___ year old man with HCV/HBV, cirrhosis, alc hep, 
presenting with
alcohol intoxication.  // ?Hx of ankle surgery with metal 
rods/pins, needs
clearance for liver MRI     ?Hx of ankle surgery with metal 
rods/pins, needs
clearance for liver MRI
IMPRESSION: 
No previous images.  There is a single metallic screw 
transfixing a healed
fracture of the midportion of the talus.  There is a moderate 
inferior and
tiny posterior calcaneal spur.  The ankle mortise is intact.  
Lucency in the
anterior aspect of the calcaneus probably represents a site of 
previous
external fixation.

EXAMINATION: CT ABDOMEN W/ AND W/O CONTRAST
IMPRESSION:
1. Cirrhotic liver with a small amount appear hepatic ascites, 
splenomegaly,
and a large umbilical vein varix, consistent with portal 
hypertension.
2. Today's examination is limited by an arterial phase, which is 
too early. 
The abnormality visualized on ultrasound is not seen on today's 
examination.
3. Ill-defined hypodensity within liver segment ___ seen only on 
the portal
venous phase, measuring up to 1.9 cm, which should be further 
evaluated with
an MRI.
4. Nodular opacities within the lower lobes of the lungs 
bilaterally, which
___ reflect aspiration or bronchopneumonia.  A repeat chest CT 
in ___ weeks is
recommended to ensure resolution.
RECOMMENDATION(S):
1. MRI is recommended for further evaluation of the ill-defined 
hypodensity
within liver segment ___.
2. Chest CT is recommended in ___ weeks to ensure resolution of 
the nodular
opacities within the lower lobes bilaterally.

EXAMINATION: MRI LIVER W/ AND W/O CONTRAST
IMPRESSION: 
1.  Segment 4 hypodensity seen on CT corresponds to perfusional 
difference. 
No suspicious lesion.
2.  1.1 cm segment 7 lesion, likely regenerative.  Suggest 
attention on follow
up.
3. Cirrhosis, mild ascites, splenomegaly, and recanalized 
paraumbilical vein.
4. Cholelithiasis.
 
Brief Hospital Course:
___ with HCV/EtOH cirrhosis and left eye trauma presenting 
intoxicated/withdrawing after left facial contusion during 
altercation.

#ALCOHOL INTOXICATION / WITHDRAWAL: CIWA>10 in ED, received 15mg 
of diazepam in ED. No history of DTs or seizures per patient. 
Required lorazepam ___ po every ___ during first 2 days of 
admission. No longer scoring on CIWA scale at the time of 
discharge. Received thiamine, MVI, folate while inpatient. 
Social work was consulted for addiction counseling.

#ALCOHOLIC / HBV+ HCV+ CIRRHOSIS: Per PCP report, physical exam, 
labs and imaging. Decompensated with encephalopathy on admission 
with some ascites. Labs reflective of chronic HBV carriage (with 
undetectable viral load), as well as HCV infection (VL 569,000, 
genotype 1a). His ascites was minimal so did not require 
diuretics or paracentesis. Found to have asterixis and altered 
mental status consistent with hepatic encephalopathy which 
improved and ultimately resolved as he was given Lactulose 30mL 
qid, titrated to ___.

#ALCOHOLIC HEPATITIS: Given ongoing heavy alcohol ingestion 
during weeks prior to admission, transaminasemia with ___ >2 
at time of admission. ___ scores: initially 9.5, peaked at 
23.2, 21 on discharge. Steroids never warranted given ___ 
score <32 at all times as well as contraindication given HCV an 
HBV.  Nutrition was consulted to provide teaching regarding 
proper diet.

#OCULAR ERYTHEMA/SECRETIONS: On third day of admission patient 
developed new bilateral ocular erythema and thick greenish 
secretions raising concern for conjunctivitis. Ophthalmology 
considered bacterial vs. chemical conjunctivitis (potential 
offenders were cyclopentolate and brimonidine which were 
discontinued) . Improved with PolymixinB-Bactrim eye drops. He 
received  prednisone eye drops for left eye to decrease 
inflammation. Was prescribed protective eye glasses on DC.

#CONCERN FOR LIVER MASS: Patient at risk for HCC given cirrhosis 
and HBV/HCV. 6mm lesion found on  admission RUQ US. Triphasic CT 
on ___ showed 1.9cm hypodensity concerning for HCC. F/u MRI 
showed hypodensity was likely perfusion defect (and 1.1cm lesion 
likely regenerative, but warrants future attention). 

#IRON DEFICIENCY ANEMIA: Hemoglobin was 8.8 on admission. 
Vitamin B12 >1500. Ferritin 28, Fe/TIBC<10% on admission. Was 
given ferric gluconate iv x2 during admission. 

#LEFT EYE TRAUMA/INTRAOCULAR HYPERTENSION: Experiencing pain in 
left eye upon admission. Reported history of left eye trauma 
complicated by intraocular bleed leading to hypertension in 
___ as confirmed by contacting glaucoma fellow at ___. 
Had been off eye drops for 2 weeks prior to admission. Per ___ 
glaucoma fellow, prognosis of his eyesight is guarded. Pain 
likely explained by increased intra-ocular pressure. Patient was 
restarted on glaucoma medications with improvement of  Now much 
improved at the time of discharge.

#HYPONATREMIA: Hyponatremia with nadir at 128 while inpatient 
likely due to hypovolemia in the setting of being NPO for 
imaging procedures. Repleted with LR boluses and continuous 
fluids. Was also seen by nutrition and given Ensure shakes x 2 
for meals. On discharge Na 130. 
 
#NODULAR OPACITIES:
CT showed nodular opacities within the lower lobes of the lungs 
bilaterally, which ___ reflect aspiration or bronchopneumonia. 
Clinical history and exam were not concerning for pneumonia.

#TRANSITIONAL
- Please follow up with new PCP and ___ as scheduled
  - Please check LFTs at appointment on ___ to ensure no further 
worsening of alcoholic hepatitis 
  - Continue to encourage proper nutrition
  - Ensure adherence to medication, and importance of lactulose 
to avoid encephalopathy
  - Repeat chest CT in ___ weeks as outpatient for f/u on chest 
nodules
 -Please refer patient to Liver Clinic at ___ for further 
follow-up. 
 
Medications on Admission:
The Preadmission Medication list ___ be inaccurate and requires 
futher investigation.
1. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic bid left 
eye 
2. Dorzolamide 2% Ophth. Soln. 1 DROP LEFT EYE BID 
3. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE BID 
4. Cyclopentolate 1% 1 DROP LEFT EYE BID 

 
Discharge Medications:
1. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP LEFT EYE BID 
RX *dorzolamide-timolol (PF) [Cosopt (PF)] 2 %-0.5 % 1 drop left 
eye twice a day Disp #*1 Vial Refills:*0
2. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE BID 
RX *prednisolone acetate [Pred Forte] 1 % 1 drop left eye twice 
a day Refills:*0
3. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0
4. Lactulose 30 mL PO QID 
RX *lactulose [Constulose] 10 gram/15 mL 3 teaspoonfuls by mouth 
four times a day Refills:*0
5. Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth once a day 
Disp #*14 Tablet Refills:*0
6. Polymyxin B -Trimethoprim Ophth Soln 1 DROP BOTH EYES QID 
RX *polymyxin B sulf-trimethoprim [Polytrim] 10,000 unit-1 mg/mL 
1 drop both eyes four times a day Refills:*0
7. Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
- Alcohol withdrawal
- Alcoholic hepatitis
- Chronic hepatitis B
- Chronic hepatitis C
- Cirrhosis
- Left eye trauma
- Bilateral conjunctivitis

Secondary Diagnoses:
- Iron deficiency anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ on ___ because of alcohol 
intoxication and trauma to your left eye. While you were here, 
you underwent a safe detox, given that you drank a lot of 
alcohol per day. We also determined that you were Hepatitis B 
and C positive. These are both infections that are associated 
with liver cancer. As a result, we did an CT and MRI (imaging 
study) of your liver that showed lesions concerning for cancer. 
As a result, you are scheduled to follow up in clinic to manage 
your liver health. In the meantime, please continue to take all 
your medications as prescribed. It is especially important to 
take the lactulose 4 times a day, or until you have ___ bowel 
movements- this will prevent toxins from building up in your 
blood and causing mental confusion.

We also treated your left eye with steroids to help decrease the 
inflammation surrounding your trauma. We also continued your 
glaucoma eye drops for the left eye and treated both eyes with 
antibiotic eye drops because they ___ have been infected. After 
discharge, you have been given a prescription for protective 
glasses to shield your functional right eye. You have a follow 
up appointment at ___ Eye and Ear on ___.

In addition to the liver clinic appointment and the Mass Eye and 
Ear appointment on ___, you are also scheduled to see a primary 
care provider at ___'s ___ on ___. It is VERY 
IMPORTANT that you make it to all of these appointments.

In addition to all these appointments, it is important that you 
do your best to stay sober and not drink alcohol. Drinking 
alcohol is extremely dangerous in a patient like you who has 
severe liver disease.

Thank you kindly for letting us take care of you.

Sincerely,
___ Medicine
 
Followup Instructions:
___